US08013003B2
Methyl tetrahydro-2H-pyran-4-carboxylate (5 ml, 40.0 mmol) was added to a solution of methylamine (generated by heating a mixture of methylamine hydrochloride and sodium hydroxide pellets) in THF (30 ml) and the mixture heated at 110° C. in a bomb reactor overnight. The solvents were evaporated, the residue dissolved in THF (100 ml), and LiAlH4 (4.6 g, 121 mmol) added, and the mixture heated at 70° C. for 1 h. The mixture was cooled to 0° C., concentrated NaOH solution added and the THF evaporated. Chloroform (100 ml) was added to the residue and the resulting solid was filtered off and the filtrate concentrated under vacuum to give N-methyl-N-tetrahydro-2H-pyran-4-ylmethylamine as a pale brown oil. The preceding amine (1 g, 7.8 mmol) was dissolved in dichloromethane (50 ml), and triethylamine (4 ml) and [2,1,3]-benzoxadiazole-5-carbonylchloride (1.7 g, 9.3 mmol), as a solution in dichloromethane (20 ml), were added, slowly. The mixture was stirred at room temperature for 1 h, the mixture washed with 1N HCl (20 ml), and saturated sodium bicarbonate solution (20 ml), dried (MgSO4) and evaporated. The residue was purified by silica gel chromatography eluting with ethyl acetate/chloroform (3:1) to give the title compound as a pale brown oil. 1H NMR (300 MHz, CDCl3, 2-rotamers) δ 7.93 (d, J=9.3 Hz, 1H), 7.83 (br s, 1H), 7.38-7.45 (m, 1H), 4.10-3.90 (m, 2H), 3.52-3.20 (m, 4H), 3.13 and 3.05 (both s, total 3H), 2.18-1.80 (m, 1H), 1.73-1.40 ppm (m, 4H).

reactant | Methyl tetrahydro-2H-pyran-4-carboxylate | 40.0 mmol, 5 ml | O1CCC(CC1)C(=O)OC | C7H12O3
reactant | methylamine | CN | CH5N
reactant | methylamine hydrochloride | Cl.CN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | LiAlH4 | 121 mmol, 4.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-methyl-N-tetrahydro-2H-pyran-4-ylmethylamine | CNCC1CCOCC1 | C7H15NO
